US09447106B2
Compound 33: 7-(Acrylamidomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a solution of 7-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide (125 mg, 0.344 mmol) in 5 mL of DCM was added Et3N (four drops) and acryloyl chloride (46.5 mg, 0.52 mmol). After stirring at rt for 30 mins. The mixture was partitioned between water (10 mL) and DCM (5 mL). The organic layer was concentrated and purified by pre-TLC (DCM/MeOH=20/1) to give 40 mg (28%) of product. 1H NMR (400 MHz, DMSO-d6) δ 8.37 (t, J=6.0 Hz, 1H), 7.59 (d, J=8.8 Hz, 2H), 7.54-7.43 (m, 2H), 7.25 (t, J=7.6 Hz, 1H), 7.16-7.11 (m, 4H), 6.76 (s, 1H), 6.33 (dd, J=10.1, 17.0 Hz, 1H), 6.18 (dd, J=1.9, 17.0 Hz, 1H), 5.69 (dd, J=1.9, 10.1 Hz, 1H), 4.28-4.22 (m, 1H), 3.92-3.80 (m, 1H), 3.50-3.30 (m, 3H), 2.14-1.94 (m, 2H). MS (ESI) m/e [M+1]+ 417.9.

reactant | 7-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.344 mmol, 125 mg | NCC1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H21N5O2
reactant | acryloyl chloride | 0.52 mmol, 46.5 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Et3N | four drops | CCN(CC)CC | C6H15N
product | 7-(Acrylamidomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide | 40 mg, 28% | C(C=C)(=O)NCC1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C23H23N5O3
